US08426447B2
A vial was charged with (S)-1-(2-amino-1′-bromo-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-2′-yloxy)-2-methylpropan-2-ol (150 mg, 0.302 mmol), tetrakis(triphenylphosphine)palladium(0) (34.9 mg, 0.030 mmol), TEA (168 μL, 1.209 mmol), and tetramethyltin (617 μL, 4.53 mmol). The vial was sealed and heated in a 90° C. oil bath 16 h. The mixture was cooled to RT, diluted with water, and extracted with EtOAc (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was dissolved in methanol and filtered through a 0.2 micron filter. The filtrate was purified by reverse-phase HPLC (10-40% CH3CN/H2O with 0.1% TFA). The fractions containing product combined in saturated aq. sodium bicarbonate solution with the aid of methanol and extracted with DCM (3×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated to give (S)-1-(2-amino-1′-methyl-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-2′-yloxy)-2-methylpropan-2-ol as a white solid. MS m/z=432.0. Calc'd for C25H26N3O4: 432.19.

reactant | (S)-1-(2-amino-1′-bromo-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-2′-yloxy)-2-methylpropan-2-ol | 0.302 mmol, 150 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=C(C23)Br)OCC(C)(O)C)C=2C=NC=CC2)N1 | C24H22BrN3O4
reactant | tetramethyltin | 4.53 mmol, 617 μL | C[Sn](C)(C)C
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.030 mmol, 34.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-1-(2-amino-1′-methyl-7′-(pyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-2′-yloxy)-2-methylpropan-2-ol | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=C(C23)C)OCC(C)(O)C)C=2C=NC=CC2)N1 | C25H25N3O4
